Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
Leg pain
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ year old woman w/ PMH of IDDM who presents with a painful 
ulcer at the posterior right leg with cellulitis that has not 
responded to oral abx/outpatient therapy.
  
Just before ___, the patient was working with a 
mentally disabled patient and had to move a chair quickly. She 
banged the back of her right ankle with the chair, but does not 
think the skin broke. A blister subsequently formed that popped 
on ___. She has had worsening pain and redness from the 
ulcer since then. She has been seen by Podiatry, both Dr. ___ 
at ___ and Dr. ___. She was started on clindamycin 
on ___. She reports being changed to another "stronger" 
antibiotic at some point, but does not remember the name. ___ 
is the only antibiotic mentioned in OMR or Atrius. A culture was 
performed in Dr. ___ office on ___ that grew out > 
3 organisms that were all pansensitive.  
Over the last two days, her pain has gotten worse and her leg 
has turned red. She saw Dr. ___ in clinic ___ who referred 
her to the ED for antibiotics. She denies any systemic symptoms. 
 

In the ED initial vitals were: 97.8 74 190/72 20 98%  
- Labs were significant for normal CBC, Cr 2.5 (baseline 
1.4-1.8), K 5.3, UA w/ 10 WBCs, few bacteria.  
- Plain films showed no osteomyelitis.  
- Podiatry was consulted who recommended admission to medicine, 
no plans for operative intervention.  
- Patient was given IV vanc/levo/flagyl, 30 toradol, 2 iv 
morphine, hydrocodone-APAP ___. 
 
Vitals prior to transfer were: 98.3 96 152/86 16 100% RA  
On the floor, she continues to complain of leg pain, but is 
otherwise asymptomatic.  

Review of Systems:  
(+) per HPI  
(-) fever, chills, night sweats, headache, vision changes, 
rhinorrhea, congestion, sore throat, cough, shortness of breath, 
chest pain, abdominal pain, nausea, vomiting, diarrhea, 
constipation, BRBPR, melena, hematochezia, dysuria, hematuria.
 
Past Medical History:
IDDM  
HTN  
Asthma  
empty sella syndrome  
OA - Knee  
HLD  
Obesity  
Debridement surgery at ___ ___ for non healing ulcers via vasc 
surgery there  

 
Social History:
___
Family History:
No hx of diabetes.
 
Physical Exam:
ADMISSION EXAM:
--------------
Vitals - T:98.0 BP:208/96 HR:100 RR:18 02 sat:96% RA  
GENERAL: NAD, A&Ox3, pleasant  
NECK: nontender supple neck  
CARDIAC: RRR, S1/S2, no murmurs, gallops, or rubs  
LUNG: good air movement, mild end expiratory wheezes scattered 
thoughout both lung fields, no rales.  
ABDOMEN: obese, +BS, nontender in all quadrants, no 
rebound/guarding  
EXTREMITIES: 2x3 cm superficial ulceration to the back of the 
right ankle, hyperkeratotic borders, no drainage. An area of 
erythema extending from the ulcer up to the anterior midshin is 
delineated by skin marker. No asymmetric warmth is appreciated. 
2+ pitting edema to the knees bilaterally, R > L. Moves all 4 
extremities with purpose.  
PULSES: 2+ DP pulse on the right, unable to palpate on the left. 


DISCHARGE EXAM:
--------------
VS - 99.1 140s-170/60s-80s ___ 18 99%RA 
BG: Yesterday: 83, 56, 67, 95; this AM 102
I/O: 1120/BMx4 loose; since MN ___ incontinent
Wt:119.2 kg (___)
BGs: 140s-150s yesterday ___, at 3AM 48, at 4:30AM 115
General: Overweight ___ woman laying in bed, in NAD
HEENT:  NC/AT, MMM
Neck: Suppl  
CV:  RRR, S1+S2, no m/r/g
Lungs:  CTAB
Abdomen:  Obese, nontender, no organomegaly or masses
EXTREMITIES: The right ankle is exquistely tender to touch. A 
2x3 cm superficial ulceration to the back of the right ankle, 
hyperkeratotic borders, no drainage. An area of erythema 
extending from the ulcer up to the anterior midshin is 
delineated by skin marker; has improved since admission. No 
asymmetric warmth is appreciated. 2+ pitting edema to the knees 
bilaterally, R > L. Moves all 4 extremities with purpose.  
PULSES: 2+ DP pulse on the right, unable to palpate on the left.
 
Pertinent Results:
ADMISSION LABS:
--------------
___ 11:29PM   PLT COUNT-268
___ 11:29PM   NEUTS-56.3 ___ MONOS-4.6 EOS-4.8* 
BASOS-0.4
___ 11:29PM   WBC-7.0 RBC-4.40 HGB-12.3 HCT-37.7 MCV-86 
MCH-28.0 MCHC-32.7 RDW-14.5
___ 11:29PM   estGFR-Using this
___ 11:29PM   GLUCOSE-159* UREA N-34* CREAT-2.5* SODIUM-141 
POTASSIUM-5.8* CHLORIDE-103 TOTAL CO2-27 ANION GAP-17
___ 11:35PM   LACTATE-1.1 K+-5.3*
___ 11:35PM   ___ COMMENTS-GREEN TOP 

PERTINENT LABS:
--------------
___ 12:30AM URINE  MUCOUS-RARE
___ 12:30AM URINE  GRANULAR-3*
___ 12:30AM URINE  RBC-<1 WBC-10* BACTERIA-FEW YEAST-NONE 
EPI-1
___ 12:30AM URINE  BLOOD-TR NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-SM 
___ 12:30AM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 12:30AM URINE  GR HOLD-HOLD
___ 12:30AM URINE  UHOLD-HOLD
___ 12:30AM URINE  HOURS-RANDOM
___ 12:30AM URINE  HOURS-RANDOM UREA N-508 CREAT-90 
SODIUM-45 POTASSIUM-30 CHLORIDE-42
___ 07:35AM   PLT COUNT-243
___ 07:35AM   WBC-6.7 RBC-4.30 HGB-11.8* HCT-37.0 MCV-86 
MCH-27.5 MCHC-31.9 RDW-14.6
___ 07:35AM   CALCIUM-9.1 PHOSPHATE-3.6 MAGNESIUM-2.0
___ 07:35AM   GLUCOSE-126* UREA N-29* CREAT-2.0* SODIUM-140 
POTASSIUM-4.2 CHLORIDE-103 TOTAL CO2-27 ANION GAP-14
___ 06:42AM BLOOD CRP-6.4*
___ 05:31PM BLOOD CRP-8.3*

MICROBIOLOGY:
------------
___ 11:29 pm BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 
___ 12:44 am BLOOD CULTURE

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 2:33 pm STOOL     CONSISTENCY: NOT APPLICABLE
      Source: Stool. 

                            **FINAL REPORT ___

   C. difficile DNA amplification assay (Final ___: 
      Negative for toxigenic C. difficile by the Illumigene DNA
      amplification assay. 
           (Reference Range-Negative). 

IMAGING/STUDIES:
---------------
+ ___ Imaging TIB/FIB (AP & LAT) RIGH 
IMPRESSION:  
  
Right lower extremity soft tissue edema without radiographic 
evidence of 
osteomyelitis or subcutaneous gas. If there is high clinical 
suspicion, CT is a better examination for evaluation of 
subcutaneous gas and MR is the better examination for evaluation 
of osteomyelitis. 

+ ___
Sinus rhythm. Left atrial abnormality. Poor R wave progression. 
Left axis
deviation with left anterior fascicular block. Voltage criteria 
for borderline left ventricular hypertrophy. Lateral ST-T wave 
changes most likely related to left ventricular hypertrophy. 
Compared to the previous tracing of ___ multiple described 
abnormalities persist.

+ ___ CALF W&W/O CONTRAST
IMPRESSION: 
 
1. No evidence of osteomyelitis or abscess.
 
2. Diffuse nonspecific subcutaneous soft tissue edema, 
interfascial edema,
myositis, and moderate global fatty atrophy of the muscles.

+ ___
Sinus rhythm with first degree atrio-ventricular conduction 
delay. Borderline left axis deviation. Possible left anterior 
fascicular block. Non-diagnostic repolarization abnormalities. 
Compared to the previous tracing of ___ multiple 
abnormalities as previously described persist without major 
change.

DISCHARGE LABS:
--------------
___ 06:49AM BLOOD WBC-6.7 RBC-3.97* Hgb-11.3* Hct-34.7* 
MCV-87 MCH-28.4 MCHC-32.5 RDW-15.0 Plt ___
___ 06:49AM BLOOD Glucose-113* UreaN-36* Creat-2.1* Na-140 
K-4.5 Cl-103 HCO3-29 AnGap-13
___ 06:49AM BLOOD Calcium-9.2 Phos-3.8 Mg-2.1
 
Brief Hospital Course:
Ms. ___ is a ___ woman with a history of IDDM who presents 
with a painful ulcer on her posterior lower extremity, found to 
have cellulitis not responsive to outpatient oral therapy, 
referred by her podiatrist for admission to medicine for IV 
antibiotics.
  
#Diabetic ulcer w/ cellulitis: The patient has a 2x3 cm ulcer 
that is a result of a traumatic blister, complicated by 
secondary infection. She has failed over 2 weeks of outpatient 
clindamycin and cipro. In the ED she was afebrile without a 
leukocytosis. She was started on vancomycin, levofloxacin, and 
metronidazole (antibiotic choice complicated by allergy to 
penicillin). She had a lower extremity Xray which showed no 
indication of osteomyelitis. On ___ she was transitioned to 
cipro and clinda per podiatry recommendations, but the following 
day she had worsening leg pain and erythema. Of note, she has 
failed a course of clinda and then a course of clinda/cipro as 
an outpatient and a superficial swab of her wound at the time 
grew multiple different Enterobacteriaceae and Enterococcus all 
of them pan-sensitive. Because of this, Infectious Diseases was 
consulted on ___ and there was concern for osteomyelitis. She 
was started on tigeycline. On ___ she had an MRI of her left 
lower extremity which showed no evidence of osteomyelitis. She 
was experiencing some episodes of hypoglycemia attributed to 
tigacycline. On ___ she was transitioned to vancomycin, cipro, 
and metronidazole, and then on ___ she was transitioned to 
linezolid and cipro. She was discharged on this regimen to 
complete an 8 day course. 

# Nausea/vomiting: The morning of ___ the patient developed 
vomiting and diarrhea after eating breakfast. Her BGs were in 
the ___ thereafter. Because of the acuity of her symptoms 
and her history of being on antibiotics stool cultures were sent 
for C.diff and PCR sent for Norovirus. The etiology of her 
symptoms may have been secondary to her linezolid. Overnight 
___ the patient has had no nausea or vomiting and has had 4 
loose BMs. Her symptoms then resolved. Her C.diff returned 
negative and Norovirus PCR was pending at time of discharge. 

#IDDM: The patient's last A1c 8.4% ___, c/b neuropathy. 
During hospital stay she had intermittent episodes of 
hypoglycemia to the ___ that became more frequent after the 
initiation of tigecycline. Her home glargine of 80u qAM and 45 u 
qPM was decreased by 50% (40 u qAM and 22 u qPM) and her 
standing 12u of Humalog was held. She was on a low ISS as well. 
Her blood sugars remained well controlled on this regimen and 
she was instructed to continue with this regimen after discharge 
until follow up with her PCP.

#Hypertensive urgency: On admission, the patient's SBP was > 200 
in the setting of missing all of her antihypertensives that day. 
She denied headache, vision changes, CP, SOB, or other 
neurological symptoms. She continued to be hypertensive to 190s 
and so on ___ her metoprolol was stopped and she was switched to 
labetalol, which was eventually uptitrated to 600 mg TID. She 
also restarted home lisinopril after resolution of her ___. She 
continued home clonidine and amlodipine. Her SBPs were in the 
150s-160s on day of discharge.

___ on CKD: On admission the patient's creatinine was elevated 
to 2.5, from a baseline of 1.4-1.8 (last month was 1.8). She 
likely has CKD from hypertension and diabetic nephropathy with 
an overlying ___. Initially the patient's lisinopril and home 
furosemide was held, but then restarted. By day of discharge her 
creatinine was stable at 2.1.
 
#Diabetic foot ulcer: The patient presented with a right 
Achilles heel ulcer which was followed by wound care and 
podiatry with daily dressing changes. Per podiatry, there was no 
need for surgical intervention. Her wound showed no signs of 
infection during hospitalization. Her legs were elevated for 
comfort. 

#Asthma: The patient continued on home albuterol prn and flovent 
BID. 
 
#HLD: The patient continued on home atorvastatin 80 mg daily.

TRANSITIONAL ISSUES:
[] Patient was discharged home on an 8 day course of linezolid 
and ciprofloxacin, day 1 ___, day 8 ___.
[] Patient's home metoprolol was stopped and the patient was 
discharged home on labetalol 600 mg TID
[] Patient's home insulin regimen was changed. She will be 
discharged on 40u glargine qAM and 22u glargine qPM (this is 50% 
of the regimen she was taking prior to admission). Her standing 
12u Humalog with meals was stopped. She should follow up as an 
outpatient.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Gabapentin 600 mg PO TID 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Lisinopril 40 mg PO DAILY 
4. Furosemide 80 mg PO DAILY 
5. Amlodipine 10 mg PO DAILY 
6. Metoprolol Tartrate 100 mg PO BID 
7. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze/sob 
8. Glargine 80 Units Breakfast
Glargine 45 Units Bedtime
Humalog 15 Units Breakfast
Humalog 15 Units Lunch
Humalog 15 Units Dinner
9. CloniDINE 0.3 mg PO TID 
10. Atorvastatin 80 mg PO QPM 

 
Discharge Medications:
1. Linezolid ___ mg PO Q12H Duration: 12 Doses 
You will take this medication until ___. 
RX *linezolid [Zyvox] 600 mg 1 tablet(s) by mouth twice a day 
Disp #*13 Tablet Refills:*0
2. Albuterol 0.083% Neb Soln 1 NEB IH Q6H:PRN wheeze/sob 
3. Amlodipine 10 mg PO DAILY 
4. Atorvastatin 80 mg PO QPM 
5. CloniDINE 0.3 mg PO TID 
6. Fluticasone Propionate 110mcg 2 PUFF IH BID 
7. Furosemide 80 mg PO DAILY 
8. Gabapentin 600 mg PO TID 
9. Glargine 40 Units Breakfast
Glargine 22 Units Bedtime
Insulin SC Sliding Scale using HUM Insulin
10. Lisinopril 40 mg PO DAILY 
11. Ciprofloxacin HCl 500 mg PO Q12H Duration: 12 Doses 
Continue taking until ___. 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth Every 12 hours 
Disp #*12 Tablet Refills:*0
12. Clotrimazole Cream 1 Appl TP BID 
RX *clotrimazole 1 % Apply thin layer to  feet, soles, and in 
between toes twice a day Refills:*0
13. Collagenase Ointment 1 Appl TP DAILY 
RX *collagenase clostridium histo. [Santyl] 250 unit/gram Apply 
a thin layer to your heel wound Daily Refills:*0
14. Labetalol 600 mg PO TID 
RX *labetalol 300 mg 2 tablet(s) by mouth three times a day Disp 
#*180 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: Non-healing right achilles ulcer and right 
lower extremity cellulitis 

SECONDARY DIAGNOSES: 
IDDM  
HTN  

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___,

It was a pleasure to take care of you at ___. You were 
admitted with an infected right ankle ulcer and surrounding skin 
infection that was not responding to oral antibiotics. Of note, 
your blood pressure was high upon admission.

You were given intravenous antibiotics and pain medication 
during this hospitalization. Your skin infection and pain 
improved. You were transitioned back to oral antibiotics prior 
to discharge. 

Your blood pressure medications were adjusted and your blood 
pressure subsequently lowered, though remains above target. 

You also experienced low blood sugars during this 
hospitalization and your insulin dosages were cut by half 
approximately during your stay. Your 12 units of Humalog with 
meals were stopped. 

Please remember to keep your right leg elevated after you leave 
the hospital to facilitate wound healing and avoid putting 
excess pressure on your ulcer. You were given ointments to apply 
to your wound and to your skin with wound care recommendations.

Please follow up with your primary care physician after 
discharge, particularly to discuss ongoing blood pressure 
management as well as glucose control and titration of your 
insulin back to your baseline. This is VERY IMPORTANT.

If you have any signs of worsening infection, such as 
foul-smelling ulcer, increased pain, increased swelling or 
redness of your leg, or signs of low blood sugars please contact 
your primary care physician ___. 

Thank you for allowing us to be part of your care.

Sincerely,
Your ___ Team
 
Followup Instructions:
___